US07829568B2
2) Synthesis of 2-[butyl-(3-chloro-benzoyl)-amino]-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine-3-carboxylic acid
2-[butyl-(3-chloro-benzoyl)-amino]-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine-3-carboxylic acid ethyl ester (11.7 mmol) was dissolved in a solution of 190 mL MeOH/dioxan/4 M NaOH in water in a ratio of 15/4/1 and the solution was stirred over night at room temperature. The solvent was removed under vacuum, EtOAc (700 mL) was added thereto and the organic phase was washed with 0.5 M KHSO4 in water (700 mL). The aqueous phase was extracted with EtOAc (300 mL) and the combined organic phases were washed with saturated aqueous NaCl solution (700 mL) and dried over sodium sulphate, and the solvent was removed under vacuum. 4.13 g (94% over two stages) of the desired product 2-[butyl-(3-chloro-benzoyl)-amino]-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine-3-carboxylic acid were obtained.

reactant | 2-[butyl-(3-chloro-benzoyl)-amino]-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine-3-carboxylic acid ethyl ester | 11.7 mmol | C(C)OC(=O)C1=C(N=C2N1CCCC2)N(C(C2=CC(=CC=C2)Cl)=O)CCCC | C21H26ClN3O3
solvent | MeOH dioxan | 4 M, 190 mL | CO.O1CCOCC1
solvent | water | O | H2O
product | 2-[butyl-(3-chloro-benzoyl)-amino]-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine-3-carboxylic acid | C(CCC)N(C=1N=C2N(CCCC2)C1C(=O)O)C(C1=CC(=CC=C1)Cl)=O | C19H22ClN3O3
